US04529792
1. Synthesis of 4,4'-methylenebis(hydroxyacetamidocyclohexane)
4,4'-Methylenebis(cyclohexylamine) (56.5 g, 0.27 mole) was dissolved in hot isopropanol (500 ml) and glycolic acid (40.9 g, 0.54 mole) added portion-wise with stirring. Upon cooling, a white gummy solid separated which was isolated by decantation and redissolved in a small volume of ethanol. Crystallization produced a white crystalline, deliquescent solid; m.p. 96°-102° C. Thorough drying under vacuum increased the melting point (m.p. 149°-151° C.) and reduced the deliquescence.

reactant | 4,4'-Methylenebis(cyclohexylamine) | 0.27 mole, 56.5 g | C(C1CCC(CC1)N)C1CCC(CC1)N | C13H26N2
reactant | glycolic acid | 0.54 mole, 40.9 g | C(CO)(=O)O | C2H4O3
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 4,4'-methylenebis(hydroxyacetamidocyclohexane) | C(C1CCC(CC1)NC(CO)=O)C1CCC(CC1)NC(CO)=O | C17H30N2O4
